US05723412
(1) Synthesis of an intermediate, 2-methylthio-4-[3-(trifluoromethyl)phenoxy]pyrimidine
In THF, a phenoxide was prepared from 3-(trifluoromethyl)phenol (4.54 g, 0.0187×1.5 mol) was mixed with NaH (1.12 g (ca. 60% in mineral oil), 0.0187×1.5 mol), and 4-chloro-2-(methylthio)pyrimidine (Compound No. VII-1) (3.0 g, 0.0187 mol) was added thereto and the mixture was refluxed for about 10 hours. The reaction solution was partitioned between ethyl acetate and aqueous saturated sodium hydrogen carbonate to separate an organic phase. The organic phase was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate and concentrated, then recrystallized from a methanol/water system to obtain the intermediate compound.

reactant | 3-(trifluoromethyl)phenol | 1.5 mol, 4.54 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | NaH | 1.5 mol, 1.12 g | [H-].[Na+]
reactant | 4-chloro-2-(methylthio)pyrimidine | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | THF | C1CCOC1 | C4H8O
product | 2-methylthio-4-[3-(trifluoromethyl)phenoxy]pyrimidine | CSC1=NC=CC(=N1)OC1=CC(=CC=C1)C(F)(F)F | C12H9F3N2OS
